US04355172
p-Nitrobenzyl p-hydroxyphenylglyoxylate oxime
To a mixture of 0.176 g. of p-nitrobenzyl p-hydroxyphenylglyoxylate and 1 g. of hydroxylamine hydrochloride were added 9 ml. of N,O-bis-trimethylsilyltrifluoroacetamide and the solution was stirred at a temperature of 140° C. for 2 hours. The reaction mixture was evaporated under reduced pressure and the residue was taken up in ethyl acetate. The ethyl acetate solution was washed with water and was then dried and evaporated. The oxime product was purified and isolated over silica gel preparative plates using toluene:ethyl acetate, 7:3, for elution. The product was located on the plate by means of UV light and the silica gel was scraped from the plate and the product extracted therefrom with ethyl acetate. The ethyl acetate was evaporated to yield 186 mg. of product. The product was crystallized from methylene chloride to yield 103 mg. of the crystalline material. The filtrate from the crystallization was diluted with petroleum ether to yield a second crop of 20 mg.

reactant | p-nitrobenzyl p-hydroxyphenylglyoxylate | OC1=CC=C(C=C1)C(C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=O | C15H11NO6
reactant | hydroxylamine hydrochloride | Cl.NO
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | p-Nitrobenzyl p-hydroxyphenylglyoxylate oxime | OC1=CC=C(C=C1)C(C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=NO | C15H12N2O6
